US03936464
Preparation of 1-acetyl-3-[2-(4-phenylpiperidino)ethyl]indoline
In the manner described in Example 1, reaction of 1-acetyl-3-(2-bromoethyl)indoline with 4-phenylpiperidine gives a solid that is recrystallized from dilute ethanol to give white crystals, m.p. 92°-93°C.

reactant | 1-acetyl-3-(2-bromoethyl)indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCBr | C12H14BrNO
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | 1-acetyl-3-[2-(4-phenylpiperidino)ethyl]indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCN1CCC(CC1)C1=CC=CC=C1 | C23H28N2O
